US07138533B2
N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]methanesulfonamide
Using N-(2,3-dihydro-1H-inden-2-yl)methanesulfonamide and 5-chlorovaleryl chloride according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals having a melting point of 71 to 72° C.

reactant | N-(2,3-dihydro-1H-inden-2-yl)methanesulfonamide | C1C(CC2=CC=CC=C12)NS(=O)(=O)C | C10H13NO2S
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]methanesulfonamide | ClCCCCC(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C | C15H20ClNO3S
